US04762840
A stirred mixture of 97.5 g of 2-(p-nitrophenyl)-propionic acid [J. Med. Chem. Vol. 26, pages 222-226 (1983)], 40 ml of thionyl chloride and 500 ml of dry toluene was heated at 80° C. for 5 hours. The mixture was then allowed to cool and the solvent was evaporated under reduced pressure. The residual oil was dissolved in 400 ml of dry toluene, and 100 g of 1-methylcyclohexanol were added to the solution. The stirred mixture was heated at 80° C. for 1 hour and then at ambient temperature overnight. The solution was washed with 5% NaHCO3 solution, then water, dried over MgSO4 and finally evaporated to dryness. The crude mixture was purified over a column of 600 g of silica using CHCl3 as the eluant 34.95 g (24% yield) of 1-methyl-cyclohexyl 2-(p-nitrophenyl)-propionate as a golden yellow liquid.

reactant | 2-(p-nitrophenyl)-propionic acid | 97.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)C | C9H9NO4
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-cyclohexyl 2-(p-nitrophenyl)-propionate | 34.95 g, 24% yield | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OC1(CCCCC1)C)C | C16H21NO4
